US04252724
In the same way, 3-(4-trifluoromethylphenyl)-4-isopropyloxazolidine-2,5-dione is reacted with 3-benzylpyrrolylmethyl alcohol to give 3-benzylpyrrolylmethyl 2-(4-trifluoromethylphenylamino)-3-methylbutanoate.

reactant | 3-(4-trifluoromethylphenyl)-4-isopropyloxazolidine-2,5-dione | FC(C1=CC=C(C=C1)N1C(OC(C1C(C)C)=O)=O)(F)F | C13H12F3NO3
reactant | 3-benzylpyrrolylmethyl alcohol | C(C1=CC=CC=C1)C1=C(NC=C1)CO | C12H13NO
product | 3-benzylpyrrolylmethyl 2-(4-trifluoromethylphenylamino)-3-methylbutanoate | FC(C1=CC=C(C=C1)NC(C(=O)OCC=1NC=CC1CC1=CC=CC=C1)C(C)C)(F)F | C24H25F3N2O2
